US09302988B2
To a solution of 3-(4-chlorophenyl)-N-methyl-N-neopentyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide (100 mg, 0.268 mmol) in dry DMF (1.5 mL) was added 1-(bromomethyl)-4-fluorobenzene (35 μL, 0.282 mmol) and Cs2CO3(131 mg, 0.402 mmol). The white suspension was stirred at 60° C. for 1 h. The reaction mixture was poured out in saturated aqueous NaHCO3 (25 mL) and the product was extracted with EtOAc (2×25 mL). The combined organic layers were washed with saturated aqueous NaHCO3 (2×15 mL), aqueous 1M KHSO4 (2×15 mL) and brine (2×15 mL) before drying on Na2SO4 and concentration in vacuo. The product was purified using flash chromatography (silica, gradient heptane/EtOAc 95:5→7:3). The product containing fractions were combined, concentrated in vacuo and crystallised from hot i-Pr2O to give a first batch of SC-261. The mother liquor was concentrated in vacuo and crystallised from i-Pr2O/heptane (1:1) to give white crystals which were combined with the earlier obtained batch to give SC-261 (58 mg, 45%) as colorless crystals.

reactant | 3-(4-chlorophenyl)-N-methyl-N-neopentyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide | 0.268 mmol, 100 mg | ClC1=CC=C(C=C1)C1=C(NC(=C1)C(F)(F)F)C(=O)N(CC(C)(C)C)C | C18H20ClF3N2O
reactant | 1-(bromomethyl)-4-fluorobenzene | 0.282 mmol, 35 μL | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | Cs2CO3 | 0.402 mmol, 131 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
product | 3-(4-Chlorophenyl)-N-(2,2-dimethyl-propyl)-1-[(4-fluorophenyl)-methyl]-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide | ClC1=CC=C(C=C1)C1=C(N(C(=C1)C(F)(F)F)CC1=CC=C(C=C1)F)C(=O)N(C)CC(C)(C)C | C25H25ClF4N2O
